US05861417
3.2.2 Synthesis of (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester
Combine 3-cyano-3-phenylpentanedioic acid diethyl ester (93 g, 321 mmol) and ethanol (400 mL) in a 2 gallon pressure reactor. Add Raney nickel (280 g). Heat to 50° C. and charge with 200 psi of hydrogen. After 15 minutes, vent the reactor and add aqueous concentrated ammonia solution (120 mL). Charge the reactor with 200 psi of hydrogen. After 7 hours, vent the reactor and allow to stand for 18 hours. Filter through a celite pad and rinse the solids with ethanol. Evaporate the filtrate in vacuo to obtain a residue. Combine the residue and 1/5 diethyl ether/hexane (500 mL) and cool to -20° C. After 18 hours, decant and add 1/5 diethyl ether/hexane (500 mL) and cool to -20° C. to give a solid. Collect the solid by filtration and triturate with 1/5 diethyl ether/hexane (500 mL). Filter and dissolve in diethyl ether (300 mL) and add hexane (700 mL) to give a solid. Collect the solid by filtration and dry to give the title compound. Elemental Analysis calculated for C14H17NO3 : C 68.00; H 6.93; N 5.66; Found: C 67.63; H 6.99; N 5.81.

reactant | 3-cyano-3-phenylpentanedioic acid diethyl ester | 321 mmol, 93 g | C(C)OC(CC(CC(=O)OCC)(C1=CC=CC=C1)C#N)=O | C16H19NO4
reactant | ethanol | 400 mL | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 120 mL | N | H3N
catalyst | Raney nickel | 280 g | [Ni] | Ni
solvent | diethyl ether hexane | 500 mL | C(C)OCC.CCCCCC
product | (3-phenyl-5-oxopyrrolidin-3-yl)acetic acid ethyl ester | C(C)OC(CC1(CNC(C1)=O)C1=CC=CC=C1)=O | C14H17NO3
